US04734419
2-Amino-4-bromo-N-(4-bromo-2-fluorobenzyl)benzamide (2.90 g) and N,N'-carbonyldiimidazole (4.68 g) were dissolved in dioxane (50 ml). The solution was evaporated to give a residue, which was stirred at 150° C. for 30 minutes. After cooling, the precipitates were collected by filtration and washed with ethanol to give 7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline (2.92 g).

reactant | 2-Amino-4-bromo-N-(4-bromo-2-fluorobenzyl)benzamide | 2.90 g | NC1=C(C(=O)NCC2=C(C=C(C=C2)Br)F)C=CC(=C1)Br | C14H11Br2FN2O
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline | 2.92 g | BrC1=CC=C2C(N(C(NC2=C1)=O)CC1=C(C=C(C=C1)Br)F)=O | C15H9Br2FN2O2
